US07037938B2
To a suspension of methyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (2.0 g) in acetone (70 ml) and water (70 ml) was added ammonium acetate (1.11 g) and sodium periodate (3.08 g), and the mixture was stirred at room temperature for 15 hours. The solvent was evaporated and the residue was diluted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give [3-methoxy-4-(methoxycarbonyl)phenyl]-boronic acid (1.4 g).

reactant | methyl 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.0 g | COC1=C(C(=O)OC)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO5
reactant | ammonium acetate | 1.11 g | C(C)(=O)[O-].[NH4+]
reactant | sodium periodate | 3.08 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | 70 ml | O | H2O
product | [3-methoxy-4-(methoxycarbonyl)phenyl]-boronic acid | 1.4 g | COC=1C=C(C=CC1C(=O)OC)B(O)O | C9H11BO5
